US04567279
7-(4-Benzyloxyphenyl)-5-hydroxy-1-(4-hydroxy-3-methoxyphenyl)-heptan-3-one
In a manner similar to Example 3, 2.2 g (10 mmol) of 4-(3-methoxy-4-trimethylsilyloxyphenyl)butan-2-one was treated with 10 mmol of lithium diisopropylamine, followed by 3 g (12 mmol) of 3-(4-benzyloxyphenyl)propan-1-al. Purification of reaction mixture by dry column chromatography (silica gel, hexane: ethyl acetate, 2:1) gave 0.5 g of the desired product as a pale yellow oil. MS(EI):434.

reactant | 4-(3-methoxy-4-trimethylsilyloxyphenyl)butan-2-one | 10 mmol, 2.2 g | COC=1C=C(C=CC1O[Si](C)(C)C)CCC(C)=O | C14H22O3Si
reactant | lithium diisopropylamine | 10 mmol | C(C)(C)NC(C)C.[Li]
reactant | 3-(4-benzyloxyphenyl)propan-1-al | 12 mmol, 3 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC=O | C16H16O2
product | 7-(4-Benzyloxyphenyl)-5-hydroxy-1-(4-hydroxy-3-methoxyphenyl)-heptan-3-one | 0.5 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC(CC(CCC1=CC(=C(C=C1)O)OC)=O)O | C27H30O5
